US07985753B2
(5-Bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 5-Bromo-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 5-Bromo-1,2,3,4-tetrahydro-isoquinoline | BrC1=C2CCNCC2=CC=C1 | C9H10BrN
product | (5-Bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone | BrC1=C2CCN(CC2=CC=C1)C(=O)C1=NN2C(N=CC(=C2)Br)=C1 | C16H12Br2N4O
